US08293909B2
5-(3-(tert-butylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylpyrazolo[1,5-a]pyridine-3-carboxamide was prepared from 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)benzoic acid (0.10 g, 0.20 mmol) and 2-methylpropan-2-amine (0.020 g, 0.30 mmol). 1H NMR (500 MHz, DMSO-D6) δ ppm 8.88 (d, J=7.02 Hz, 1H), 8.19 (s, 1H), 8.09 (d, J=1.22 Hz, 1H), 7.95-8.02 (m, 3H), 7.87-7.93 (m, 3H), 7.58-7.64 (m, 1H), 7.47 (dd, J=7.32, 1.83 Hz, 1H), 7.33 (t, J=9.00 Hz, 2H), 2.82 (d, J=4.58 Hz, 3H), 1.43 (s, 9H). LCMS: retention time: 2.940 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 u, C18, 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% CH3OH/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3OH/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 445 (MH+).

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)benzoic acid | 0.20 mmol, 0.10 g | FC1=CC=C(C=C1)C1=NN2C(C=C(C=C2)C=2C=C(C(=O)O)C=CC2)=C1C(NC)=O | C22H16FN3O3
reactant | 2-methylpropan-2-amine | 0.30 mmol, 0.020 g | CC(C)(C)N | C4H11N
product | 5-(3-(tert-butylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylpyrazolo[1,5-a]pyridine-3-carboxamide | C(C)(C)(C)NC(=O)C=1C=C(C=CC1)C1=CC=2N(C=C1)N=C(C2C(=O)NC)C2=CC=C(C=C2)F | C26H25FN4O2
